US05817691
Preparation of 4'-Chloro-3-(1,3-dioxolan-2-yl)-2-(phenylthio)propiophenone
A solution of 4'-chloro-3-(1,3-dioxolan-2-yl)propiophenone (1.0 g, 4.16 mmol) in tetrahydrofuran is added dropwise to a solution of lithium diisopropylamide (3 mL of a 1.5 molar solution in tetrahydrofuran, 4.6 mmol) in tetrahydrofuran at -78° C. The reaction mixture is stirred at -78° C. for 15 minutes, treated with a solution of phenyl disulfide (2.0 g, 9.2 mmol) in tetrahydrofuran, stirred at room temperature overnight, diluted with diethyl ether, washed sequentially with 1N hydrochloric acid and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain a residue. Flash column chromatography of the residue using silica gel and a 1:1 ethyl acetate/hexanes solution gives the title product as a white solid (1.0 g, mp 74°-75° C.).

reactant | 4'-chloro-3-(1,3-dioxolan-2-yl)propiophenone | 4.16 mmol, 1.0 g | ClC1=CC=C(C=C1)C(CCC1OCCO1)=O | C12H13ClO3
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | phenyl disulfide | 9.2 mmol, 2.0 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4'-Chloro-3-(1,3-dioxolan-2-yl)-2-(phenylthio)propiophenone | 1.0 g | ClC1=CC=C(C=C1)C(C(CC1OCCO1)SC1=CC=CC=C1)=O | C18H17ClO3S
